US05206240
6-Methanesulfonamido-3,4-dihydro-1'-(2-methanesulfonylethyl)spiro[(2H)-1-benzopyran-2,4'-piperidine]-4-one
A solution of 6-methanesulfonamido-3,4-dihydro-1'-(2-methylthioethyl)spiro[(2H)-1-benzopyran-2,4'-piperidine]-4-one (0.335 g, 0.871 mmol) in 15 mL of methanol was treated dropwise with a solution of Oxone® (0.803 g, 1.31 mmol) in 15 mL of water. The resulting mixture was stirred at 25° C. for 2 hours. The reaction mixture was then poured into 50 mL of saturated aqueous NaHCO3 and extracted with a total of 100 mL of ethyl acetate. The organic phase was dried (MgSO4), filtered, and concentrated in vacuo to a pale yellow oil which was shown to be a mixture by then layer analysis. The mixture was chromatographed on silica gel using 5% methanol in methylene chloride eluant. The pure oil was dissolved in 20 mL of absolute ethanol and was treated with excess 4.8N ethanolic HCl. The solid was collected, washed with diethyl ether, and dried for 4 hours at 100° C. under vacuum to give 0.176 g (44.6%) of product, mp 250°-251° C.

reactant | 6-methanesulfonamido-3,4-dihydro-1'-(2-methylthioethyl)spiro[(2H)-1-benzopyran-2,4'-piperidine]-4-one | 0.871 mmol, 0.335 g | CS(=O)(=O)NC=1C=CC2=C(C(CC3(CCN(CC3)CCSC)O2)=O)C1 | C17H24N2O4S2
reactant | Oxone | OOS(=O)[O-].[K+]
reactant | NaHCO3 | 50 mL | C(=O)(O)[O-].[Na+]
reactant | water | 15 mL | O | H2O
solvent | methanol | 15 mL | CO | CH4O
product | 6-Methanesulfonamido-3,4-dihydro-1'-(2-methanesulfonylethyl)spiro[(2H)-1-benzopyran-2,4'-piperidine]-4-one | 0.176 g, 44.6% | CS(=O)(=O)NC=1C=CC2=C(C(CC3(CCN(CC3)CCS(=O)(=O)C)O2)=O)C1 | C17H24N2O6S2
